US09353096B2
To a solution of (R)-2-(3-chloro-phenyl)-morpholine hydrochloride (45 mg, 192 μmol) and triethylamine (134 μL, 961 μmole) in 4 mL of acetonitrile was added (S)-2-(trifluoromethyl)oxirane (43.1 mg, 384 μmol). The mixture was stirred at 50° C. for 3 h, followed by evaporation in vacuo to afford (S)-3-((R)-2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol (59.5 mg), which was used directly for next step.

reactant | (R)-2-(3-chloro-phenyl)-morpholine hydrochloride | 192 μmol, 45 mg | Cl.ClC=1C=C(C=CC1)[C@@H]1CNCCO1
reactant | triethylamine | 961 μmole, 134 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-(trifluoromethyl)oxirane | 384 μmol, 43.1 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (S)-3-((R)-2-(3-chlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 59.5 mg | ClC=1C=C(C=CC1)[C@H]1OCCN(C1)C[C@@H](C(F)(F)F)O | C13H15ClF3NO2
